US05030654
The title compound was obtained via N-benzyloxycarbonyl-O-benzyl-L-serine t-butyl ester which was prepared by a different route to that described in the literature (Recl. Trav. Chim. Pays-Bas, 1964, 83, 99). To a stirred solution of O-benzyl-L-serine (25.0 g, 128 mmole) in water (200 ml) and dioxane (100 ml) was added sodium carbonate (7.46 g, 70 mmole) at room temperature. A solution of dibenzyldicarbonate (36.1 g, 126 mmole) in dioxane (100 ml) was added dropwise and the mixture stirred for 18 hours. Dioxane was evaporated under vacuum and the aqueous residue extracted with diethyl ether. Evaporation of the dried (Na2SO4) extracts under vacuum gave a white solid which was washed with hexane to yield crude N-benzyloxycarbonyl-O-benzyl-L-serine (39.57 g, 95%). This material was treated with isobutylene (360 ml) and concentrated sulphuric acid (2 ml) in dichloromethane. The reaction mixture was shaken at room temperature in a pressure vessel for 3 days. The mixture was washed with dilute sodium hydrogen carbonate and the dichloromethane evaporated. The residue was dissolved in diethyl ether, washed with dilute sodium hydrogen carbonate, dried (Na2SO4) and evaporated under vacuum. Purification by column chromatography on silica eluting with diethyl ether-dichloromethane mixtures gave N-benzyloxycarbonyl-O-benzyl-L-serine t-butyl ester (36.66 g, 79%) as an oil. Found: C,68.90; H,7.06; N,3.46. C22H27NO5 requires C,68.55; H,7.06; N,3.63%.

reactant | O-benzyl-L-serine | 128 mmole, 25.0 g | C(C1=CC=CC=C1)OC[C@H](N)C(=O)O | C10H13NO3
reactant | sodium carbonate | 70 mmole, 7.46 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | dibenzyldicarbonate | 126 mmole, 36.1 g | C(C1=CC=CC=C1)OC(=O)OC(=O)OCC1=CC=CC=C1 | C16H14O5
solvent | water | 200 ml | O | H2O
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | N-benzyloxycarbonyl-O-benzyl-L-serine | 39.57 g, 95% | C(C1=CC=CC=C1)OC(=O)N[C@@H](COCC1=CC=CC=C1)C(=O)O | C18H19NO5
